US07378409B2
Preparation D12, Step 2: A mixture of 6-bromoquinazolin-4-ol (173 mg, 0.77 mmol) and 2-tributylstannylpyridine (850 mg, 2.30 mmol) in toluene (10 mL), plus a few drops of DMF to improve solubility, was degassed under vacuum/argon, then a catalytic amount of tetrakis(triphenylphosphine)palladium(0) was added, the mixture was degassed again, and then heated at reflux for 4 h. The reaction was cooled to room temperature, and some solids were removed by filtration. Analysis by LC/MS indicated that the desired product was present in both the solids and the filtrate. The solids were slurried in 8:2 methylene chloride/methanol, the mixture was filtered, the filtrate was combined with the original filtrate, and this mixture was concentrated in-vacuo. The residue was purified over silica gel, eluting with 50% EtOAc/hexanes, 75% EtOAc/hexanes, 100% EtOAc, 5% MeOH/EtOAc, to yield 106 mg of 6-(pyridin-2-yl)quinazolin-4-ol as a colorless solid. MS (ES+)=224 (M+H+).

reactant | 6-bromoquinazolin-4-ol | 0.77 mmol, 173 mg | BrC=1C=C2C(=NC=NC2=CC1)O | C8H5BrN2O
reactant | 2-tributylstannylpyridine | 2.30 mmol, 850 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | 6-(pyridin-2-yl)quinazolin-4-ol | 106 mg | N1=C(C=CC=C1)C=1C=C2C(=NC=NC2=CC1)O | C13H9N3O
